US07572805B2
Part I. (3aR,9bS)-8-Ethyl-6-(trifluoromethyl)-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride
To a solution of (3aR,9bS)-tert-butyl 8-ethyl-5-oxo-6-(trifluoromethyl)-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate, the first eluting peak from Part H above, (55 mg, 0.14 mmol) in 2 mL of diethyl ether was added 1 mL of 12 N HCl. The resulting mixture was stirred vigorously for 5 min at ambient temperature and then was concentrated and dried in vacuo. The resulting white solid was triturated twice with diethyl ether and dried in vacuo to afford 40 mg (88%) of the title compound of Example 45 as a white solid. 1H NMR (DMSO-D6): δ 9.83 (broad s, 1H), 9.64 (broad s, 1H), 8.89 (s, 1H), 7.66 (s, 1H), 7.43 (s, 1H), 3.95-3.90 (m, 1H), 3.63-3.58 (m, 1H), 3.51-3.45 (m, 1H), 3.34-3.28 (m, 1H), 3.21-3.10 (m, 2H), 2.73 (q, 2H, J=7.7 Hz), 1.21 (t, 3H, J=7.7 Hz). LRMS (ESI): 285.2 (M+H)+.

reactant | (3aR,9bS)-tert-butyl 8-ethyl-5-oxo-6-(trifluoromethyl)-3,3a,4,5-tetrahydro-1H-pyrrolo[3,4-c]isoquinoline-2(9bH)-carboxylate | C(C)C1=CC=2[C@@H]3[C@@H](NC(C2C(=C1)C(F)(F)F)=O)CN(C3)C(=O)OC(C)(C)C | C19H23F3N2O3
reactant | HCl | 12 N, 1 mL | Cl | ClH
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | (3aR,9bS)-8-Ethyl-6-(trifluoromethyl)-2,3,3a,4-tetrahydro-1H-pyrrolo[3,4-c]isoquinolin-5(9bH)-one hydrochloride | 40 mg, 88% | Cl.C(C)C1=CC=2[C@@H]3[C@@H](NC(C2C(=C1)C(F)(F)F)=O)CNC3 | InChI=1S/C14H15F3N2O.ClH/c1-2-7-3-8-9-5-18-6-11(9)19-13(20)12(8)10(4-7)14(15,16)17;/h3-4,9,11,18H,2,5-6H2,1H3,(H,19,20);1H/t9-,11+;/m1./s1
